* 21mux prelayout
V1 vdd 0 1
V2 vee 0 -1
V6 I0 0 SINE(0 1 25000000)
V10 I1 0 PULSE(-1 1 0.0001n 0.0001n 0.0001n 0.1u 0.2u)
M1 I0 N001 out vee n_mos l=0.18u w=0.36u
M2 I1 select out vee n_mos l=0.18u w=0.36u
M3 out select I0 vdd p_mos l=0.18u w=0.9u
M4 out N001 I1 vdd p_mos l=0.18u w=0.9u
M5 vdd select N001 vdd p_mos l=0.18u w=0.9u
M6 N001 select vee vee n_mos l=0.18u w=0.36u
V11 select 0 PULSE(.5 -.5 0.1n 0.1n 0.1n 1u 2u)
.model NMOS NMOS
.model PMOS PMOS
.tran 0.001u 4u
.inc osulib.lib
.control
run
plot V(I0)
plot V(I1)
plot V(select)
plot V(out)
.endc
.end
